US07414050B2
c) 4-(4-Amino-3-bromo-phenyl)-1-methyl-piperidine-2,6-dione
A solution of 289 mg (1.32 mmol) of 4-(4-amino-phenyl)-1-methyl-piperidine-2,6-dione (as prepared in the previous step) in CH2Cl2 (15 mL) was treated portionwise with 224 mg (1.29 mmol) of solid NBS for 20 min. The mixture was diluted with CH2Cl2 (30 mL) and washed with saturated aqueous NaHCO3 (2×30 mL). The organic layer was dried (MgSO4) and concentrated in vacuo. Silica gel chromatography of the residue with 25-50% EtOAc-hexane afforded 265 mg (67%) of the title compound as a tan solid: Mass spectrum (ESI, m/z): Calcd. for C12H13N2O2Br, 297.0/299.0 (M+H). found 297.0/299.0.

reactant | 4-(4-amino-phenyl)-1-methyl-piperidine-2,6-dione | 1.32 mmol, 289 mg | NC1=CC=C(C=C1)C1CC(N(C(C1)=O)C)=O | C12H14N2O2
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Amino-3-bromo-phenyl)-1-methyl-piperidine-2,6-dione | 265 mg, 67% | NC1=C(C=C(C=C1)C1CC(N(C(C1)=O)C)=O)Br | C12H13BrN2O2
